US06004959
5-isopropoxy-2-methoxy-fluoren-9-one
Combine n-butyl lithium (22.00 mL of 2.5 M, 0.055 mole) and diisopropylamine (6.07 g, 0.060 mole), while stirring, in 150 mL tetrahydrofuran (THF) at -50° C. Wait approximately 5 minutes, then dropwise add N,N-diethyl-2'-isopropoxy-4-methoxy-biphenyl-2-carboxamide (3.80 g, 0.011 mole) dissolved in 50 mL THF. Remove the cooling source and allow the reaction to obtain ambient temperature, then stir while heating at 65° C. for 5 hours. The reaction changes color to orange, then to dark brown. Continue stirring the reaction overnight at ambient temperature overnight, then cool in an ice bath and neutralize with about 100 mL of a saturated solution of ammonium chloride. The reaction changes color to orange. Wash the THF solvent separately with brine (saturated sodium chloride) and dry over magnesium sulfate. Filter and concentrate to give a red liquid. Chromatography purification of this; material (20% ethyl acetate: 80% hexane) results in an orange liquid which solidifies when dried under high vacuum to give an orange solid (1.60 g, 50%). m.p. 89°-90° C.

reactant | n-butyl lithium | 0.055 mole, 2.5 M, 22.00 mL | C(CCC)[Li]
reactant | diisopropylamine | 0.060 mole, 6.07 g | C(C)(C)NC(C)C | C6H15N
reactant | N,N-diethyl-2'-isopropoxy-4-methoxy-biphenyl-2-carboxamide | 0.011 mole, 3.80 g | C(C)N(C(=O)C=1C(=CC=C(C1)OC)C1=C(C=CC=C1)OC(C)C)CC | C21H27NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | THF | 50 mL | O1CCCC1 | C4H8O
product | 5-isopropoxy-2-methoxy-fluoren-9-one | 1.60 g, 50% | C(C)(C)OC1=C2C=3C=CC(=CC3C(C2=CC=C1)=O)OC | C17H16O3
